US08258129B2
b) 2-(4-dimethylaminomethyl-phenylamino)-4-(3,4,6,7-tetrahydro-imidazo[4,5-c]pyridin-5-yl)-5-dimethylamino-pyrimidine
50 mg 2-chloro-4-(3,4,6,7-tetrahydro-imidazo[4,5-c]pyridin-5-yl)-5-dimethylamino-pyrimidine are suspended in 60 μL of 1,4-dioxane, 20 μL water and 90 μL of a 5 M hydrochloric acid (in 1,4-dioxane) and mixed with 55 mg 4-dimethylaminomethyl-phenylamine. This mixture is heated to 95° C. and stirred for 20 h at this temperature. The suspension obtained is diluted with DMF and then purified by column chromatography. The carrier material used is C18-RP-silica gel and a gradient is run through which consists at the starting point of 95% water (10 mM ammonium hydrogen carbonate and 38 mM ammonia) and 5% acetonitrile and at the finishing point of 50% water and 50% acetonitrile. The fractions are freeze-dried. The residue is taken up in acetonitrile, combined with aqueous hydrochloric acid and freeze-dried once more.

reactant | 2-chloro-4-(3,4,6,7-tetrahydro-imidazo[4,5-c]pyridin-5-yl)-5-dimethylamino-pyrimidine | 50 mg | ClC1=NC=C(C(=N1)N1CC2=C(CC1)N=CN2)N(C)C | C12H15ClN6
reactant | water | 20 μL | O | H2O
reactant | hydrochloric acid | 5 M | Cl | ClH
reactant | 4-dimethylaminomethyl-phenylamine | 55 mg | CN(C)CC1=CC=C(C=C1)N | C9H14N2
solvent | 1,4-dioxane | 60 μL | O1CCOCC1 | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(4-dimethylaminomethyl-phenylamino)-4-(3,4,6,7-tetrahydro-imidazo[4,5-c]pyridin-5-yl)-5-dimethylamino-pyrimidine | CN(C)CC1=CC=C(C=C1)NC1=NC=C(C(=N1)N1CC2=C(CC1)N=CN2)N(C)C | C21H28N8
